data/mechanism_extracts/ACSOmega/10.1021_acsomega.2c06689.json
{"doi": "10.1021_acsomega.2c06689", "journal": "ACSOmega", "is_review": false, "rxn_class_summary": "Transition-metal-free oxidative decarboxylative radical difluoroarylmethylation/cyclization of N-methacryloyl-2-arylbenzimidazoles with α,α-difluoroarylacetic acids to give difluoroarylmethyl-substituted benzimidazo[2,1-a]isoquinolin-6(5H)-ones", "mechanism_family": ["radical_polar_crossover", "direct_SET"], "electrochemical_role": null, "key_intermediates": [{"name": "α,α-difluorobenzyl radical (A) from decarboxylation of α,α-difluorophenylacetic acid by persulfate", "smiles": "[CH]([F])([F])c1ccccc1", "role": "reactive"}, {"name": "tertiary C-radical B from addition of A to the methacryloyl alkene", "smiles": null, "role": "transient"}, {"name": "cyclohexadienyl radical C from intramolecular ipso/ortho cyclization onto the 2-aryl ring", "smiles": null, "role": "transient"}, {"name": "Wheland-type arenium cation D after SET oxidation of C", "smiles": null, "role": "transient"}, {"name": "sulfate radical anion SO4•- (from thermolysis of S2O8 2-)", "smiles": null, "role": "reactive"}], "electron_flow": "Persulfate thermally homolyzes to SO4•-, which oxidatively decarboxylates the α,α-difluoroarylacetic acid to a difluorobenzyl radical A; A adds across the methacrylamide alkene to give tertiary radical B, which undergoes intramolecular homolytic aromatic substitution onto the 2-aryl benzimidazole to form cyclohexadienyl radical C; SET oxidation of C by another SO4•-/S2O8 2- gives arenium cation D, and rearomatization by loss of H+ delivers the product.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Product 3aa not formed; TEMPO–CF2Ar adduct 4 detected by LC-MS, supporting a radical pathway"}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Reaction suppressed; desired product 3aa not observed"}, {"name": "Phenylacetic acid (2r) in place of α,α-difluorophenylacetic acid", "smiles": "OC(=O)Cc1ccccc1", "purpose": "other", "observation": "Decarboxylative coupling still proceeds to give 3ar in 68% yield, indicating the CF2 group has little influence on the transformation"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Mechanism is proposed by analogy to prior persulfate-mediated decarboxylative radical cyclizations; no DFT, KIE, EPR, or CV evidence is reported. X-ray crystallography of product 3ea confirms regiochemistry but does not directly probe the mechanism."}
